US04105790
Methanol (250ml.) was stirred at -20° C. as thionyl chloride (6ml.) was added. 4-(Aminoacetyl)phenoxyacetic acid hydrochloride (5.0g) was added, and the mixture was stirred and allowed to warm to room temperature during 18 hours. The resulting solution was evaporated under reduced pressure and the residue was recrystallised from a mixture of methanol and diethyl ether to give methyl 4-(aminoacetyl)-phenoxyacetate hydrochloride, m.p. 202°-204° C. (Example 12) in 62% yield.

reactant | thionyl chloride | 6ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(Aminoacetyl)phenoxyacetic acid hydrochloride | 5.0g | Cl.NCC(=O)C1=CC=C(OCC(=O)O)C=C1
reactant | Methanol | 250ml | CO | CH4O
product | methyl 4-(aminoacetyl)-phenoxyacetate hydrochloride | 62% yield | Cl.NCC(=O)C1=CC=C(OCC(=O)OC)C=C1 | InChI=1S/C11H13NO4.ClH/c1-15-11(14)7-16-9-4-2-8(3-5-9)10(13)6-12;/h2-5H,6-7,12H2,1H3;1H
